US05578627
To a solution of 0.5 g of 3-(2-aminopentyloxy)-5-chloro-1,2-benzoisoxazole in 5 ml of methanol is added 5 ml of 37% formalin, and then, 0.16 g of sodium cyanoborohydride is added with ice-cooling, and they are subjected to reaction at room temperature for 24 hours, after which 2N hydrochloric acid is added to adjust the pH to 1.5 and then stirring is effected for a further 30 minutes. Ethyl acetate is added to the reaction mixture, and the pH is adjusted to 9.5 with a 10% (w/w) aqueous sodium hydroxide solution, after which the organic layer is separated. The organic layer separated is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:chloroform:methanol=20:1] and thereafter this is dissolved in ethyl acetate. Thereto is added 5 ml of a dioxane solution (2.2N) of hydrogen chloride, and the crystals precipitated are collected by filtration, to obtain 0.17 g of colorless, crystalline 5-chloro-3-(2-dimethylaminopentyloxy)-1,2-benzoisoxazole hydrochloride having a melting point of 137.1°-137.7° C.

reactant | 3-(2-aminopentyloxy)-5-chloro-1,2-benzoisoxazole | 0.5 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)CCC | C12H15ClN2O2
reactant | formalin | 5 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.16 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-3-(2-dimethylaminopentyloxy)-1,2-benzoisoxazole hydrochloride | Cl.ClC=1C=CC2=C(C(=NO2)OCC(CCC)N(C)C)C1 | InChI=1S/C14H19ClN2O2.ClH/c1-4-5-11(17(2)3)9-18-14-12-8-10(15)6-7-13(12)19-16-14;/h6-8,11H,4-5,9H2,1-3H3;1H
